US07994185B2
N-{2-Chloro-3-[2-(4-morpholinyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
To a solution of N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.26 mmol) and ammonium formate (0.16 g, 2.6 mmol) in EtOAc (7 mL) and MeOH (7 mL) was added 20% palladium hydroxide on carbon (0.16 g, 0.23 mmol). The reaction mixture was heated to 60° C. for 2 h. The palladium was filtered off using a nylon membrane. The filtrate was concentrated under vacuum to a crude yellow solid. The residue was purified by silica gel chromatography eluting 10-100% EtOAc/hexanes to afford the title compound as a bright yellow solid (0.045 g; 29.7% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.85 (s, 1H), 8.96 (d, J=1.3 Hz, 1H), 8.36 (d, J=5.6 Hz, 1H), 7.62-7.75 (m, 1H), 7.44-7.55 (m, 2H), 7.38 (d, J=6.1 Hz, 1H), 7.22 (t, J=9.1 Hz, 2H), 6.25 (dd, J=5.6, 1.3 Hz, 1H), 3.66-3.76 (m, 4H), 3.46-3.54 (m, 4H). MS (ESI) 550.1 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.26 mmol, 0.15 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17Cl2F2N5O3S2
reactant | ammonium formate | 2.6 mmol, 0.16 g | C(=O)[O-].[NH4+]
solvent | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 7 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.23 mmol, 0.16 g | [OH-].[OH-].[Pd+2]
product | N-{2-Chloro-3-[2-(4-morpholinyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.045 g, 29.7% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC=NC=C1)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H18ClF2N5O3S2
